US06395919B1
To a solution of 2-fluoro-4-bromobenzonitrile (2.0 g, 10 mmol) in 10 mL of THF, cooled to −15° C., was added a solution of potassium t-butoxide (10 mL, 10 mmol) over 7 min. The cooling bath was removed, and the reaction stirred for another 40 min. The reaction was poured into ether/10% HCl, and the ether layer was separated. The ether layer was washed with water and saturated brine, dried over sodium sulfate, and concentrated to give 2.5 g of 2-t-butoxy-4-bromobenzonitrile.

reactant | 2-fluoro-4-bromobenzonitrile | 10 mmol, 2.0 g | FC1=C(C#N)C=CC(=C1)Br | C7H3BrFN
reactant | potassium t-butoxide | 10 mmol, 10 mL | CC(C)([O-])C.[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-t-butoxy-4-bromobenzonitrile | 2.5 g | C(C)(C)(C)OC1=C(C#N)C=CC(=C1)Br | C11H12BrNO
